US08383636B2
A mixture of N-benzylhydroxylamine hydrochloride (13.59 g, 85.15 mmol) and sodium acetate (9.31 g, 114 mmol) were stirred together in ethanol (75 mL) at rt for 15 mins. Aqueous 37% formaldehyde solution (12.68 ml, 170 mmol) was added and stirring continued for 30 mins, then cis-2-butene-1,4-diol (4.67 ml, 56.8 mmol) added and the mixture heated under reflux for 16 h. The solvent was evaporated and the residue dissolved in CHCl3 and washed with aq. sat. NaHCO3, dried (MgSO4) and the solvent evaporated to give a brown syrup suitable for use without further purification (12.5 g, 98%). An aliquot was purified by chromatography on silica gel (EtOAc then EtOAc-MeOH, 95:5) to give ((4RS,5RS)-2-benzylisoxazolidine-4,5-diyl)dimethanol as a colourless syrup. 13C NMR (CDCl3, referenced to the centre line of CDCl3 at 77.0 ppm) δ 136.5, 129.0, 128.4, 127.6, 78.5, 62.4, 61.3, 60.4, 56.8, 45.8.

reactant | N-benzylhydroxylamine hydrochloride | 85.15 mmol, 13.59 g | Cl.C(C1=CC=CC=C1)NO
reactant | sodium acetate | 114 mmol, 9.31 g | C(C)(=O)[O-].[Na+]
reactant | formaldehyde | 170 mmol, 12.68 ml | C=O | CH2O
reactant | cis-2-butene-1,4-diol | 56.8 mmol, 4.67 ml | C(\C=C/CO)O | C4H8O2
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | ((4RS,5RS)-2-benzylisoxazolidine-4,5-diyl)dimethanol | C(C1=CC=CC=C1)N1OC(C(C1)CO)CO | C12H17NO3
